US07838524B2
Step 1: Preparation of 4-(N′-benzhydrylidene-hydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)-benzene sulfonamide
To a degassed solution of 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene-sulfonamide (939 mg, 2.58 mmol), benzophenone hydrazone (558 mg, 2.84 mmol, 1.1 eq), and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (75 mg, 0.13 mmol, 0.05 eq) in anhydrous toluene (13 mL, 0.2M) was added sodium tert-butoxide (596 mg, 6.20 mmol, 2.4 eq) followed by palladium(II) acetate (29 mg, 0.13 mmol, 0.05 eq), and the reaction mixture was stirred at 85° C. under nitrogen for 17 h. The reaction mixture was cooled to room temperature and was partitioned between EtOAc and water. The organic layer was washed with water and brine, dried over Na2SO4, and concentrated at reduced pressure. Purification by MPLC (75% EtOAc/hexane) afforded the title compound (1.00 g, 80%) as a white solid. 1H-NMR (DMSO-d6) δ 9.25 (s, 1H), 7.64 to 7.52 (m, 4H), 7.44 to 7.41 (m, 2H), 7.35 to 7.26 (m, 5H), 7.16 to 7.13 (m, 3H), 3.45 (t, J=4.8 Hz, 4H), 2.79 (q, J=6.3 Hz, 2H), 2.47 (s, 3H), 2.21 to 2.15 (m, 6H); MS LC-MS [M+H]+=479, RT=3.15 min.

reactant | 4-bromo-2-methyl-N-(2-morpholin-4-yl-ethyl)benzene-sulfonamide | 2.58 mmol, 939 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C13H19BrN2O3S
reactant | benzophenone hydrazone | 2.84 mmol, 558 mg, 1.1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | sodium tert-butoxide | 6.20 mmol, 596 mg, 2.4 eq | CC(C)([O-])C.[Na+]
solvent | toluene | 0.2M, 13 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.13 mmol, 29 mg, 0.05 eq | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.13 mmol, 75 mg, 0.05 eq | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 4-(N′-benzhydrylidene-hydrazino)-2-methyl-N-(2-morpholin-4-yl-ethyl)-benzene sulfonamide | 1.00 g, 80% | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NNC1=CC(=C(C=C1)S(=O)(=O)NCCN1CCOCC1)C | C26H30N4O3S
